US05334740
4,5-Dihydroxy-6-(tert-butyldimethylsilyloxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole (287 mg) was dissolved in 10 ml of methylene chloride, and 200 mg of imidazole and 226 mg of tert-butyldimethylsilyl chloride were added under ice cooling, followed by stirring the mixture overnight at room temperature. The reaction mixture was diluted with diethyl ether, washed with dilute hydrochloric acid, a sodium hydrogen carbonate aqueous solution and a sodium chloride aqueous solution in sequence, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 265 mg of 4,6-bis(tert-butyldimethylsilyloxy)-5-hydroxy-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole having the following property (yield 66%).

reactant | 4,5-Dihydroxy-6-(tert-butyldimethylsilyloxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole | 287 mg | OC1C(C(CC=2C1CON2)O[Si](C)(C)C(C)(C)C)O | C13H25NO4Si
reactant | imidazole | 200 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 226 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4,6-bis(tert-butyldimethylsilyloxy)-5-hydroxy-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole | 265 mg, yield 66% | [Si](C)(C)(C(C)(C)C)OC1C(C(CC=2C1CON2)O[Si](C)(C)C(C)(C)C)O | C19H39NO4Si2
